data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
2745,3051,[CH3:19][NH:20][C:21](=[O:22])[C:23]([C:24]#[N:25])=[N+:26]([CH3:27])[C-:28]([C:29]([CH3:30])=[O:31])[C:32](=[O:33])[NH:34][CH3:35].[CH3:1][NH:2][C:3](=[O:4])[C:5]1([C:6]([F:7])([F:8])[F:9])[C:10]#[C:11][C:12]([Cl:13])([Cl:14])[CH2:15][CH2:16][CH2:17][CH2:18]1>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1([C:6]([F:7])([F:8])[F:9])[C:10]2=[C:11]([C:12]([Cl:13])([Cl:14])[CH2:15][CH2:16][CH2:17][CH2:18]1)[C:28]([C:29]([CH3:30])=[O:31])([C:32](=[O:33])[NH:34][CH3:35])[N:26]([CH3:27])[C:23]2([C:21]([NH:20][CH3:19])=[O:22])[C:24]#[N:25],water,298.15,28.93660074126801,-35.055303139509675
2677,2975,[CH3:1][O:2][C:3](=[O:4])[C:5]1([C:6](=[O:7])[O:8][CH3:9])[C:10]#[C:11][C:12]([O:13][CH3:14])([O:15][CH3:16])[CH2:17][CH2:18][CH2:19][CH2:20]1.[CH3:21][C:22](=[O:23])[C-:24]([O+:25]=[C:26]([C:27]#[N:28])[c:29]1[cH:30][cH:31][cH:32][cH:33][cH:34]1)[C:35]([CH3:36])=[O:37]>>[CH3:1][O:2][C:3](=[O:4])[C:5]1([C:6](=[O:7])[O:8][CH3:9])[C:10]2=[C:11]([C:12]([O:13][CH3:14])([O:15][CH3:16])[CH2:17][CH2:18][CH2:19][CH2:20]1)[C:24]([C:22]([CH3:21])=[O:23])([C:35]([CH3:36])=[O:37])[O:25][C:26]2([C:27]#[N:28])[c:29]1[cH:30][cH:31][cH:32][cH:33][cH:34]1,water,298.15,14.703890989334106,-52.826835273377895
3334,3782,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][NH:12][C:13](=[O:14])[CH-:15][N+:16]#[N:17]>>[CH2:1]1[C@@H:2]2[C@H:3]([N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10])[N:17]=[N:16][CH:15]2[C:13]([NH:12][CH3:11])=[O:14],water,298.15,36.3172375011082,-6.299136712356857
3562,4060,[CH3:10][N-:11][N+:12]([CH3:13])=[C:14]([CH3:15])[C:16]([CH3:17])=[O:18].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]1([CH3:8])[CH2:9][C:14]([CH3:15])([C:16]([CH3:17])=[O:18])[N:12]([CH3:13])[N:11]1[CH3:10],water,298.15,29.912691638638822,-8.144740064944745
1651,1823,[CH3:15][NH:16][C:17](=[O:18])[C-:19]([O+:20]=[CH:21][C:22]#[N:23])[C:24](=[O:25])[NH:26][CH3:27].[Cl:1][C:2]1=[C:3]([c:4]2[cH:5][cH:6][cH:7][cH:8][cH:9]2)[CH:10]2[CH2:11][CH2:12][CH:13]1[CH2:14]2>>[Cl:1][C:2]12[C:3]([c:4]3[cH:5][cH:6][cH:7][cH:8][cH:9]3)([CH:10]3[CH2:11][CH2:12][CH:13]1[CH2:14]3)[C:19]([C:17]([NH:16][CH3:15])=[O:18])([C:24](=[O:25])[NH:26][CH3:27])[O:20][CH:21]2[C:22]#[N:23],water,298.15,6.974152128200957,-39.89123131544788
3293,3732,[CH3:9][C:10](=[O:11])[C:12]([C:13]#[N:14])=[N+:15]([CH3:16])[NH-:17].[O-:1][C:2](=[O:3])/[CH:4]=[CH:5]/[C:6](=[O:7])[O-:8]>>[O-:1][C:2](=[O:3])[C@H:4]1[C@H:5]([C:6](=[O:7])[O-:8])[NH:17][N:15]([CH3:16])[C:12]1([C:10]([CH3:9])=[O:11])[C:13]#[N:14],water,298.15,25.71184026199323,-11.53341599315788
2890,3211,[C:1]1#[C:2][C:3]([c:4]2[cH:5][cH:6][cH:7][cH:8][cH:9]2)([c:10]2[cH:11][cH:12][cH:13][cH:14][cH:15]2)[CH2:16][CH2:17][CH2:18][CH2:19][C:20]1([c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1)[c:27]1[cH:28][cH:29][cH:30][cH:31][cH:32]1.[CH3:33][NH:34][C:35](=[O:36])[CH:37]=[N+:38]([CH3:39])[C-:40]([C:41](=[O:42])[O:43][CH3:44])[c:45]1[cH:46][cH:47][cH:48][cH:49][cH:50]1>>[C:1]12=[C:2]([C:3]([c:4]3[cH:5][cH:6][cH:7][cH:8][cH:9]3)([c:10]3[cH:11][cH:12][cH:13][cH:14][cH:15]3)[CH2:16][CH2:17][CH2:18][CH2:19][C:20]1([c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1)[c:27]1[cH:28][cH:29][cH:30][cH:31][cH:32]1)[C:40]([C:41](=[O:42])[O:43][CH3:44])([c:45]1[cH:46][cH:47][cH:48][cH:49][cH:50]1)[N:38]([CH3:39])[CH:37]2[C:35]([NH:34][CH3:33])=[O:36],water,298.15,21.19239083758196,-29.81418132863396
4281,4897,[CH3:1]/[CH:2]=[CH:3]\[CH3:4].[CH3:5][C:6](=[O:7])[C:8]([CH3:9])=[O+:10][C-:11]([c:12]1[cH:13][cH:14][cH:15][cH:16][cH:17]1)[c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1>>[CH3:1][C@H:2]1[C@@H:3]([CH3:4])[C:11]([c:12]2[cH:13][cH:14][cH:15][cH:16][cH:17]2)([c:18]2[cH:19][cH:20][cH:21][cH:22][cH:23]2)[O:10][C:8]1([C:6]([CH3:5])=[O:7])[CH3:9],water,298.15,23.09800866816782,-39.09929543243811
1802,1994,[CH3:17][c:18]1[nH+:19][c-:20](-[c:21]2[cH:22][cH:23][cH:24][cH:25][cH:26]2)[c:27](=[O:28])[o:29]1.[CH3:1][O:2][C:3](=[O:4])[C:5]1([C:6]#[N:7])[C:8]#[C:9][C:10]([CH3:11])([CH3:12])[CH2:13][CH2:14][CH2:15][CH2:16]1>>[CH3:1][O:2][C:3](=[O:4])[C:5]1([C:6]#[N:7])[C:8]2=[C:9]([C:10]([CH3:11])([CH3:12])[CH2:13][CH2:14][CH2:15][CH2:16]1)[C:18]1([CH3:17])[NH:19][C:20]2([c:21]2[cH:22][cH:23][cH:24][cH:25][cH:26]2)[C:27](=[O:28])[O:29]1,water,298.15,23.18767870249766,-5.480154286208662
631,691,[CH3:12][O:13][C:14](=[O:15])[C-:16]([C:17]#[N:18])[N+:19]#[C:20][C:21]([CH3:22])=[O:23].[N:1]#[C:2][C:3]1=[C:4]([C:5]#[N:6])[CH:7]2[CH2:8][CH2:9][CH:10]1[CH2:11]2>>[N:1]#[C:2][C:3]12[C:4]([C:5]#[N:6])([CH:7]3[CH2:8][CH2:9][CH:10]1[CH2:11]3)[C:16]([C:14]([O:13][CH3:12])=[O:15])([C:17]#[N:18])[N:19]=[C:20]2[C:21]([CH3:22])=[O:23],water,298.15,17.29998619418711,-26.63418807456605
